US08492582B2
Water (0.42 mL), 2-furanboronic acid (0.040 g), sodium bicarbonate (0.060 g), and bis(triphenylphosphine)palladium(II) dichloride (4 mg) were added to an ethylene glycol dimethyl ether (1.4 mL) suspension of methyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate (0.14 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 10 minutes. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-70% hexane/ethyl acetate] and further purified by silica gel column chromatography [eluent: 90-70% hexane/ethyl acetate] to obtain 0.073 g of methyl 2-(2-acetoxy-5-(furan-2-yl)benzamido)-4-phenylbenzoate.

reactant | 2-furanboronic acid | 0.040 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium bicarbonate | 0.060 g | C([O-])(O)=O.[Na+]
reactant | methyl 2-(2-acetoxy-5-bromobenzamido)-4-phenylbenzoate | 0.14 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C23H18BrNO5
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 1.4 mL | COCCOC | C4H10O2
solvent | Water | 0.42 mL | O | H2O
product | methyl 2-(2-acetoxy-5-(furan-2-yl)benzamido)-4-phenylbenzoate | 0.073 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1OC=CC1 | C27H21NO6
